US06235730B1
Acetyl chloride (11.0 ml) was added to a chloroform (250 ml) solution of 5H-dibenzo[b,f]azepine (25.0 g) under ice-cooling. The solution was heated under reflux for 30 minutes, then allowed to cool. The organic phase was washed with a saturated sodium bicarbonate aqueous solution, water, and saturated brine; dried over anhydrous sodium sulfate; and filtered. The filtrate was concentrated, and the resulting residue was recrystallized from ethyl acetate-hexane to obtain N-acetyl-5H-dibenzo[b,f]azepine (28.6 g; yield, 94%) as a white solid.

reactant | Acetyl chloride | 11.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | 5H-dibenzo[b,f]azepine | 25.0 g | C1=CC=CC=2NC3=C(C=CC21)C=CC=C3 | C14H11N
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | N-acetyl-5H-dibenzo[b,f]azepine | 28.6 g, 94% | C(C)(=O)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C16H13NO
